datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c[n+](CC[NH2:10])ccc2c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c[n+](CC[NH2+:10][H:20])ccc2c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.SCC[NH:10]Cc1cccs1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.SCC[NH+:10](Cc1cccs1)[H:20] 10=20;20,21=21",
"O=C1Oc2cc([O-:10])ccc2C=C1c1nc2ccccc2o1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1Oc2cc([O:10][H:20])ccc2C=C1c1nc2ccccc2o1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C(C[NH2+]CCc1nnn[n-:10]1)[NH2+]CCc1nnn[n-]1.O=C(C(CO)[NH2+]Cc1ccccc1O)[O:21][H:20]>>C(C[NH2+]CCc1nnn[n:10]1[H:20])[NH2+]CCc1nnn[n-]1.O=C(C(CO)[NH2+]Cc1ccccc1O)[O-:21] 10=20;20,21=21",
"C[N+:21](C)(CCc1ccc(O)cc1)[H:20].c1ccc(-c2[nH]c3ccccc3[n:10]2)nc1>>C[N:21](C)CCc1ccc(O)cc1.c1ccc(-c2[nH]c3ccccc3[n+:10]2[H:20])nc1 10=20;20,21=21",
"CN(CC[NH+](C)C)CC[N+:21](C)(C)[H:20].ON/C=[N:10]\O>>CN(CC[NH+](C)C)CC[N:21](C)C.ON/C=[N+:10](\O)[H:20] 10=20;20,21=21",
"c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:21]2[H:20])n1.c1ccc2c([O-:10])cncc2c1>>c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:21]2)n1.c1ccc2c([O:10][H:20])cncc2c1 10=20;20,21=21",
"CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n+:21]([H:20])cn1C.O=C(N[O-:10])c1ccccn1>>CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n:21]cn1C.O=C(N[O:10][H:20])c1ccccn1 10=20;20,21=21",
"C[C@H]1CC[C@H](C(=O)[O-:10])CC1.N#CC(C#N)=C(C#N)[N:21](C1CCCCC1)[H:20]>>C[C@H]1CC[C@H](C(=O)[O:10][H:20])CC1.N#CC(C#N)=C(C#N)[N-:21]C1CCCCC1 10=20;20,21=21",
"[H:20][OH:21].CC(C)[C@H]1C(OC2=N[N+](=[C-:10]N12)C3=CC=CC=C3)(C)C>>[H:20][C:10]1=[N+](N=C2N1[C@H](C(O2)(C)C)C(C)C)C3=CC=CC=C3.[OH-:21] 10=20;20,21=21",
"Brc1c(-c2ccccc2)noc1[O-:10].S=C(/N=N/c1ccccc1)N[NH+:21](c1ccccc1)[H:20]>>Brc1c(-c2ccccc2)noc1[O:10][H:20].S=C(/N=N/c1ccccc1)N[NH:21]c1ccccc1 10=20;20,21=21",
"CC(C)[O-:10].COC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CC(C)[O:10][H:20].COC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"C[N+:21](c1ccccc1)(C1CCCC1)[H:20].Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O-:10])c1Cl>>C[N:21](c1ccccc1)C1CCCC1.Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O:10][H:20])c1Cl 10=20;20,21=21",
"Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O:21][H:20])c1Cl.Nc1ccc(-c2ccc([NH2:10])cc2)cc1>>Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O-:21])c1Cl.Nc1ccc(-c2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"C1N2CN3CN1C[N+:21]([H:20])(C2)C3.O=C([O-])c1cc2cc(Cn3cc[n:10]c3)ccc2s1>>C1N2CN3CN1C[N:21](C2)C3.O=C([O-])c1cc2cc(Cn3cc[n+:10]([H:20])c3)ccc2s1 10=20;20,21=21",
"CC1=C(C(C)C)/C(=[O+:21]\[H:20])N(c2ccccc2)N1C.c1ccc2c(c1)nc1ccccc1[n:10]2>>CC1=C(C(C)C)C(=[O:21])N(c2ccccc2)N1C.c1ccc2c(c1)nc1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"[H:20][OH:21].C1CC2=N[N+](=[C-:10]N2C1)C3=CC=C(C=C3)F>>[H:20][C:10]1=[N+](N=C2N1CCC2)C3=CC=C(C=C3)F.[OH-:21] 10=20;20,21=21",
"C[N:10]1CC[C@]23c4c5ccc(O[C@@H]6O[C@H](C(=O)[O-])[C@@H](O)[C@H](O)[C@H]6O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.Cc1ccc(C[NH+:21](CC[NH3+])[H:20])cc1>>C[N+:10]1([H:20])CC[C@]23c4c5ccc(O[C@@H]6O[C@H](C(=O)[O-])[C@@H](O)[C@H](O)[C@H]6O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.Cc1ccc(C[NH:21]CC[NH3+])cc1 10=20;20,21=21",
"Cc1ncc2c(c1[O-:10])C(O)OC2.O=C1C=CC=CC=C1C(=O)[O:21][H:20]>>Cc1ncc2c(c1[O:10][H:20])C(O)OC2.O=C1C=CC=CC=C1C(=O)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C1Cc2cc([O-:10])ccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1Cc2cc([O:10][H:20])ccc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=CC(=O)C(C(C)C)=C/C1=N/c1ccc([O-:10])cc1.O=[N+]([O-])c1cccc2ccc([NH2+:21][H:20])cc12>>CC1=CC(=O)C(C(C)C)=C/C1=N/c1ccc([O:10][H:20])cc1.O=[N+]([O-])c1cccc2ccc([NH2:21])cc12 10=20;20,21=21",
"CCOC(=O)c1ccccc1-n1nc([O-:10])cc1C.c1cc(/N=N/c2ccc([O:21][H:20])cc2)ccn1>>CCOC(=O)c1ccccc1-n1nc([O:10][H:20])cc1C.c1cc(/N=N/c2ccc([O-:21])cc2)ccn1 10=20;20,21=21",
"CO[O-:10].C[N+:21](C)(CCBr)[H:20]>>CO[O:10][H:20].C[N:21](C)CCBr 10=20;20,21=21",
"OCCN1CC[NH+:21]([H:20])CC1.c1ccc2c(c1)C1CC[N:10]2c2ccccc21>>OCCN1CC[NH:21]CC1.c1ccc2c(c1)C1CC[N+:10]2([H:20])c2ccccc21 10=20;20,21=21",
"O=C(N[NH2+:21][H:20])c1ccncc1.O=C([O-])/C=C\C(=O)[N-:10]OCc1ccccc1>>O=C(N[NH2:21])c1ccncc1.O=C([O-])/C=C\C(=O)[N:10](OCc1ccccc1)[H:20] 10=20;20,21=21",
"CSc1ncnc2c1cn[n:21]2[H:20].N#Cc1ccc(S(=O)(=O)[N-:10]Cc2ccccc2)cc1>>CSc1ncnc2c1cn[n-:21]2.N#Cc1ccc(S(=O)(=O)[N:10](Cc2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"Brc1ccc2cc([O-:10])ccc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Brc1ccc2cc([O:10][H:20])ccc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1cc([NH2+:21][H:20])ccc1[NH3+].O=C(c1ccc(F)cc1)[O-:10]>>Nc1cc([NH2:21])ccc1[NH3+].O=C(c1ccc(F)cc1)[O:10][H:20] 10=20;20,21=21",
